US05665271
22.7 g (0.1 mol) of 4-(3-bromopropyl)-1-ethylbenzene was dropped in a mixture of 2.5 g (0.11 mols) of magnesium and 300 ml of THF to obtain a Grignard reagent. The resultant solution was further dropped in a solution, in 500 ml of THF, of 0.5 g of triethyl phosphate, 0.1 g of copper (I) iodide and 31.7 g (0.1 mol) of trans-4-(trans-4-bromomethylcyclohexyl)-1-propyl-1-silacyclohexane. The resultant product was subjected to ordinary aftertreatments to obtain trans-4-(trans-4-(4-(4-ethylphenyl)butyl)cyclohexyl)-1-propyl-1-silacyclohexane. After ordinary aftertreatments, the product was purified through chromatography to obtain 31.7 g (yield: 82%) of the trans isomer product.

reactant | triethyl phosphate | 0.5 g | P(=O)(OCC)(OCC)OCC | C6H15O4P
reactant | trans-4-(trans-4-bromomethylcyclohexyl)-1-propyl-1-silacyclohexane | 0.1 mol, 31.7 g | BrC[C@@H]1CC[C@H](CC1)[C@@H]1CC[Si@H](CC1)CCC | C15H29BrSi
solvent | THF | 500 ml | C1CCOC1 | C4H8O
catalyst | copper (I) iodide | 0.1 g | [Cu]I
product | trans-4-(trans-4-(4-(4-ethylphenyl)butyl)cyclohexyl)-1-propyl-1-silacyclohexane | yield: 82% | C(C)C1=CC=C(C=C1)CCCC[C@@H]1CC[C@H](CC1)[C@@H]1CC[Si@H](CC1)CCC | C26H44Si
